US08133882B2
180 mg of 4-nitrophenyl chloroformate was dissolved in 3.0 ml of dichloromethane, and 140 mg of ethyl 3-aminopropanoate hydrochloride and 0.15 ml of pyridine were added, followed by overnight stirring at room temperature. Water was added to the reaction mixture, followed by extraction with chloroform. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate, filtered and then concentrated under a reduced pressure. By purifying the resulting residue by silica gel column chromatography, 180 mg of ethyl 3-{[(4-nitrophenoxy)carbonyl]amino}propanoate was obtained. 180 mg of ethyl 3-{[(4-nitrophenoxy)carbonyl]amino}propanoate was dissolved in 2.0 ml of dichloromethane, and 220 mg of 3-amino-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoroquinolin-4(1H)-one and 0.15 ml of pyridine were added, followed by overnight stirring at room temperature. Water was added, followed by extraction with chloroform. The organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and then filtered and concentrated under a reduced pressure. By purifying the resulting residue by silica gel column chromatography, 120 mg of ethyl 3-[({[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}carbonyl)amino]propanoate was obtained.

reactant | ethyl 3-{[(4-nitrophenoxy)carbonyl]amino}propanoate | 180 mg | [N+](=O)([O-])C1=CC=C(OC(=O)NCCC(=O)OCC)C=C1 | C12H14N2O6
reactant | 3-amino-7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoroquinolin-4(1H)-one | 220 mg | NC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C(CC)CC | C20H28FN3O
reactant | pyridine | 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | ethyl 3-[({[7-(cyclohexylamino)-1-(1-ethylpropyl)-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}carbonyl)amino]propanoate | 120 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CC)CC)NC(=O)NCCC(=O)OCC)=O)F | C26H37FN4O4
